US07189851B2
A. 6-(ethoxycarbonyl)-3-pyridazinecarboxylic acid
To the diethyl 3,6-pyridazinedicarboxylate (5.0 g, 22.3 mmol) in 150 ml ethyl alcohol, 24.5 ml 1N NaOH was added. The mixture was stirred for 2 hours. The resulting salt was collected by filtration then was dissolved in minimum amount of water. The aqueous solution obtained was then acidified with 2N HCl in ether until the PH=2 and extracted with ethyl acetate. The combined extracts were washed with brine and dried over sodium sulfate. Removal of the solvent afforded 4.1 g of light yellowish oil. 1HNMR (400 MHz, CD3OD) δ 8.42 (s, 2H), 4.52 (q, 2H), 1.42 (t, 3H) ppm.

reactant | diethyl 3,6-pyridazinedicarboxylate | 22.3 mmol, 5.0 g | N1=NC(=CC=C1C(=O)OCC)C(=O)OCC | C10H12N2O4
reactant | HCl | 2N | Cl | ClH
solvent | ethyl alcohol | 150 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 24.5 ml | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | 6-(ethoxycarbonyl)-3-pyridazinecarboxylic acid | C(C)OC(=O)C1=CC=C(N=N1)C(=O)O | C8H8N2O4
